US04873262
2-Dipropylamino-8-[2-(3-methylureido)ethoxy]-1,2,3,4-tetrahydronaphthalene
1.45 g (5 mmol) of 2-dipropylamino-8-(2-aminoethoxy)-1,2,3,4-tetrahydronaphthalene were initially introduced into 20 ml of toluene. The reaction was catalyzed using 3 drops of triethylamine, and 0.325 ml (5.5 mmol) of methyl isocyanate was then added dropwise. The mixture was stirred for 1 h at +25° C. The mixture was evaporated, and the residue obtained was stirred with hot diisopropyl ether. The mixture was cooled, and the product was filtered off under suction.

reactant | 2-dipropylamino-8-(2-aminoethoxy)-1,2,3,4-tetrahydronaphthalene | 5 mmol, 1.45 g | C(CC)N(C1CC2=C(C=CC=C2CC1)OCCN)CCC | C18H30N2O
reactant | methyl isocyanate | 5.5 mmol, 0.325 ml | CN=C=O | C2H3NO
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
catalyst | triethylamine | 3 drops | C(C)N(CC)CC | C6H15N
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Dipropylamino-8-[2-(3-methylureido)ethoxy]-1,2,3,4-tetrahydronaphthalene | C(CC)N(C1CC2=C(C=CC=C2CC1)OCCNC(=O)NC)CCC | C20H33N3O2
